US06919353B2
3-Hydroxy-3-methyl-1-(4-methylsulfanyl-phenyl)-butan-2-one
To a solution of sodium tert-butoxide (12 g, 125 mmol), XANTPHOS (2.05 g, 3.5 mmol) and Pd2(dba)3 (1.35 g, 1.5 mmol) in THF (600 mL) was added 4-bromothioanisole (20 g, 98 mmol) and 3-hydroxy-3-methyl-butan-2-one (12 g, 117 mmol). The resulting reaction mixture was heated to 75° C. for 2 h then cooled to r.t. and diluted with water. The organic extracts were washed (H2O), (brine), dried (MgSO4), filtered and concentrated. Purification by flash chromatography (eluting with hexane/ethyl acetate, 85:15-80:20) provided the title compound as a pale brown solid.

reactant | sodium tert-butoxide | 125 mmol, 12 g | CC(C)([O-])C.[Na+]
reactant | XANTPHOS | 3.5 mmol, 2.05 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 4-bromothioanisole | 98 mmol, 20 g | BrC1=CC=C(C=C1)SC | C7H7BrS
reactant | 3-hydroxy-3-methyl-butan-2-one | 117 mmol, 12 g | OC(C(C)=O)(C)C | C5H10O2
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
catalyst | Pd2(dba)3 | 1.5 mmol, 1.35 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-Hydroxy-3-methyl-1-(4-methylsulfanyl-phenyl)-butan-2-one | OC(C(CC1=CC=C(C=C1)SC)=O)(C)C | C12H16O2S
